US04453014
Preparation of 9-propionyl-1.4.4.8-tetramethyltricyclo[6.3.0.02.5 ]undecane.
Above mentioned compound was prepared as described in example I from 80 g caryophyllene, 220 g propanal and 6 g di-tert.butyl peroxide in an ampoule of glass having a volume of 300 ml. Yield: 10 g reaction product; boiling point: 145°-150° C./0.3 kPa; nD23 =1.4930.

reactant | caryophyllene | 80 g | C/C/1=C/CCC(=C)[C@H]2CC([C@@H]2CC1)(C)C | C15H24
reactant | propanal | 220 g | C(CC)=O | C3H6O
reactant | di-tert.butyl peroxide | 6 g | C(C)(C)(C)OOC(C)(C)C | C8H18O2
product | 9-propionyl-1.4.4.8-tetramethyltricyclo[6.3.0.02.5 ]undecane | C(CC)(=O)C1C2(CCC3C(CC3C2(CC1)C)(C)C)C | C18H30O
